* Z:\mnt\design.r\spice\examples\1507.asc
R1 N006 0 4.99K
R2 OUT N006 5.36K
R3 N005 N004 1K
D1 0 N003 MBRS340
D2 IN N001 1N914
C1 OUT 0 1µ
C2 OUT 0 100µ
L1 N003 OUT 10µ
V1 IN 0 12
C4 N005 0 1n
C5 N004 0 25n
XU1 N001 IN N003 N002 MP_01 0 N006 N005 LT1507
C6 N001 N003 .22µ
Rload OUT 0 5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LT1507.sub
.backanno
.end
